2126-02-10 08:04:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 ARTERIAL LINE - START [**2126-2-9**] 11:50 PM
   inserted in ED [**2125-2-9**]
 MULTI LUMEN - START [**2126-2-9**] 11:53 PM
   ABG with marked alkalosis; minute ventilation decreased until pH down
   to 7.47
   Increasingly hypertensive O/N
   Put in restraints in early AM as she became more awake, restless
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2126-2-10**] 01:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-2-10**] 12:00 AM
   Famotidine (Pepcid) - [**2126-2-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Pt received 10 days of ceftriaxone at [**Hospital1 723**] [**Date range (1) 808**] for E coli.
   Pt is on coumadin (not lovenox) for h/o PE and AFib
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-2-10**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 57 (54 - 69) bpm
   BP: 139/58(79){139/58(79) - 139/58(79)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 19 (12 - 19)mmHg
   Total In:
                                                                     12 mL
                                                                    370 mL
   PO:
   TF:
   IVF:
                                                                     12 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                  1,340 mL
   Urine:
                                                                    300 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -288 mL
                                                                   -970 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 500) mL
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.41/72/122/40/17
   Ve: 3.3 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Sedated, on vent.  Not responding to verbal or physical stimuli.
   Pupils pinpoint, not reacting
   S1, S2, regular but with frequent pauses, +systolic murmur at base
   Lungs with coarse BS b/l, decreased at bases
   Abd +BS, soft, NT, ND
   Ext:  ++pitting edema to below knee b/l; skin is slightly erythematous
   and warm over legs b/l
   Labs / Radiology
   353 K/uL
   9.3 g/dL
   117 mg/dL
   1.3 mg/dL
   40 mEq/L
   3.6 mEq/L
   65 mg/dL
   91 mEq/L
   141 mEq/L
   28.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2126-2-10**]  12:11 AM
                             [**2126-2-10**]  12:31 AM
                             [**2126-2-10**]  03:16 AM
                             [**2126-2-10**]  04:25 AM
                             [**2126-2-10**]  04:28 AM
                             [**2126-2-10**]  06:27 AM
   WBC
   10.6
   10.0
   Hct
   29.9
   28.6
   Plt
   386
   353
   Cr
   1.4
   1.3
   TCO2
   41
   42
   47
   47
   Glucose
   124
   127
   117
   Other labs: PT / PTT / INR:31.9/32.8/3.3, ALT / AST:73/45, Alk Phos / T
   Bili:58/1.2, Differential-Neuts:87.3 %, Lymph:7.5 %, Mono:4.7 %,
   Eos:0.4 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:247 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   EKG:  LAD and RBBB with TWI; unchanged from prior.
   Urine tox positive for benzos; serum tox negative
   UA negative
   BNP pending
   Ucx pending;  BCx drawn this AM
   CT Head PRELIM:
   There is no evidence of acute hemorrhage, edema, mass effect, hydroceph
   alus or
   acute vascular territorial infarct.  Moderate-to-severe involutional ch
   [**Last Name (un) **] is
   stable.  Periventricular and subcortical white matter hypodensity consi
   stent
   with small vessel ischemic disease is also stable as are lacunes in the
    left
   external capsule and left basal ganglia.  Calcification of the distal
   vertebral and cavernous internal carotid arteries is again noted.  The
   patient
   is intubated.  There is opacification of scattered ethmoid air cells as
    well
   as mucosal thickening within the right sphenoid air cell.
   CTA Chest PRELIM:
   1.  No evidence of pulmonary embolus.
   2.  Low position of the endotracheal tube 1.3 cm above the carina.
   3.  Small bilateral pleural effusions with widespread ground-glass opac
   ity in
   the upper lobes with smooth interlobular septal thickening consistent w
   ith
   pulmonary edema.
   4.  Heterogeneous mass in the right thyroid gland which displaces the
   endotracheal tube.
   5.  Severe osteoarthritis of the left shoulder.
   Assessment and Plan
   [**Age over 90 **]yo woman with h/o PE and Afib on coumadin, HTN, diastolic HF, and
   recent E coli bacteremia presents with respiratory distress.  Most
   likely due to acute heart failure in setting of recent infection and
   poorly controlled BP causing pulmonary edema and acute renal failure.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   As discussed above, most likely multifactorial from recent infection,
   poor BP control.  Unclear if Afib or dietary noncompliance may have
   played a role.   Would also consider endocarditis on differential given
   recent bacteremia and murmur on exam.
   -          lasix IV PRN for goal negative 1-2L today
   -          nitro gtt as needed for SBP 100-130
   -          continue zosyn/vanc for concern of GN bacteremia vs
   endocarditis (day 1 = [**2-9**])
   -          f/u BNP
   -          check TTE given new murmur and ? worsening pump function
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Suspect [**2-2**] heart failure as discussed above.  No evidence for
   pneumonia or PE on CTA, but will f/u final read.
   -          continue mechanical ventilation but increase minute
   ventilation (would tolerate pH around 7.5) given hypercarbia
   -          unclear baseline respiratory status; not on inhalers per
   [**Hospital 12**] Rehab, no known h/o COPD, though elevated bicarb suggests that
   she may be a chronic CO2 retainer
   -          likely to have some underlying emphysema given her advanced
   age, but would not expect that in itself to cause significant
   respiratory acidosis
   -          follow ABG and CXR
   -          lighten sedation and observe with lower support from vent
   -          send sputum culture
   -          afterload reduce and diurese as above
   -          albuterol PRN
   # Metabolic alkalosis:
   As discussed above, patient
s baseline respiratory function not clear.
   -          unclear if metabolic alkalosis is chronic compensation for
   respiratory acidosis or if she has new process causing metabolic
   alkalosis
   -          contact patient
s daughter re: any possible history of lung
   disease or recent significant emesis
   -          obtain baseline labs from [**Hospital 12**] Rehab
   -          check urine chloride
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Baseline Cr 0.9; Admission 2.0, current 1.3
   -          improving with diuresis
   -          continue lasix as above
   -          dose medications for poor creatinine clearance
 Paroxysmal ATRIAL FIBRILLATION (AFIB):
   -          currently with slow rate; would avoid beta blockers given
   bradycardia and acute heart failure
   -          holding warfarin for elevated INR; would start heparin gtt
   once no longer supratherapeutic given patient
s acute illness
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT) with mental status
   change:
   -          unclear baseline mental status, but appears to have suffered
   acute mental status change in setting of hypoxia and acute illness
   -          urine and serum tox negative except for benzos (?sent after
   intubated and on sedation)
   -          restart aricept once taking Pos
   -          daily awakenings while intubated
 HYPOTHYROIDISM / Right Thyroid Mass
   -          FNA demonstrated mass most likely benign
   -          Would contact endocrine upon discharge to ensure she is not
   lost to follow-up
   -          Check TSH
   -          Continue levothyroxine
 HYPERTENSION, BENIGN
   -          lasix and nitro gtt as discussed above
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   -          INR elevated; currently holding coumadin
   -          Would favor heparin gtt over coumadin while acutely ill
   (start once INR < [**2-3**])
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2126-2-9**] 11:50 PM
   Multi Lumen - [**2126-2-9**] 11:53 PM
   Prophylaxis:
   DVT: elevated INR
   Stress ulcer: lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Will contact patient
s daughter and HCP
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2126-02-10 08:50:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
   Corrected respiratory alkalosis, although pCO2 now 74. Started waking
   up, put in restraints and required more sedation due to agitation/HTN.
   TBB - 1L
   24 Hour Events:
 ARTERIAL LINE - START [**2126-2-9**] 11:50 PM
   inserted in ED [**2125-2-9**]
 MULTI LUMEN - START [**2126-2-9**] 11:53 PM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2126-2-10**] 01:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-2-10**] 12:00 AM
   Famotidine (Pepcid) - [**2126-2-10**] 12:00 AM
   Other medications:
   Famotidine, SQ Heparin TID, RISS, Colace, TNG drip off, Synthroid,
   Protonix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Edema, Tachycardia
   Respiratory: Dyspnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2126-2-10**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 57 (54 - 69) bpm
   BP: 139/58(79){139/58(79) - 139/58(79)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 19 (12 - 19)mmHg
   Total In:
                                                                     12 mL
                                                                    391 mL
   PO:
   TF:
   IVF:
                                                                     12 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                  1,420 mL
   Urine:
                                                                    300 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -288 mL
                                                                 -1,029 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 500) mL
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.40/74/117/40/17
   Ve: 3.3 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: intubated and sedated
   Eyes / Conjunctiva: PERRL, small pupils
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), S4, (Murmur: Systolic),
   I/VI
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilaterally)
   Abdominal: Soft
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, Rash: across legs
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   353 K/uL
   117 mg/dL
   1.3 mg/dL
   40 mEq/L
   3.6 mEq/L
   65 mg/dL
   91 mEq/L
   141 mEq/L
   28.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2126-2-10**]  12:11 AM
                             [**2126-2-10**]  12:31 AM
                             [**2126-2-10**]  03:16 AM
                             [**2126-2-10**]  04:25 AM
                             [**2126-2-10**]  04:28 AM
                             [**2126-2-10**]  06:27 AM
                             [**2126-2-10**]  07:48 AM
   WBC
   10.6
   10.0
   Hct
   29.9
   28.6
   Plt
   386
   353
   Cr
   1.4
   1.3
   TCO2
   41
   42
   47
   47
   48
   Glucose
   124
   127
   117
   Other labs: PT / PTT / INR:31.9/32.8/3.3, ALT / AST:73/45, Alk Phos / T
   Bili:58/1.2, Differential-Neuts:87.3 %, Lymph:7.5 %, Mono:4.7 %,
   Eos:0.4 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:247 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, ACUTE:  attempted 1 L diuresis and BP
   control (can use IV TNG drip as Propofol is weaned), follow cardiac
   markers. Has been able to wean to PSV but ability to diruese liimited
   by met alkalosis. Will watch UOP and vent capacity on PSV and reassess
   how much we n eed further diuresis in which case acetazolamide can be
   considered/
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): cont ventilation,, change
   over to PSV- hard to know how much drive she will have with
   hypercarbia, decrease FiO2, diuresis and BP control
 INFECTION: VANC/ZOSYN to cover possible pneumonia vs. endocarditis;
   f/u blood cxs and ECHO to r/o latter; check flu swab
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): stable w/ diuresis,
   f/u urine lytes
 ATRIAL FIBRILLATION (AFIB): rate controlled without medication,
   anticoagulated as below
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT): head CT negative,
   follow w/ daily awakenings
 HYPOTHYROIDISM/THYROID MASS: TSH OK
 METABOLIC ALKALOSIS: check urine chloride, pending results consider
   renin/aldosterone/cortisol testing; may need to use acetazolamide or
   arginine but will hold for now
 .H/O PULMONARY EMBOLISM (PE), ACUTE: hold Coumadin, start IV heparin
   when INR < 2
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-2-9**] 11:50 PM
   Multi Lumen - [**2126-2-9**] 11:53 PM
   Prophylaxis:
   DVT: systemic anti coag
   Stress ulcer: PPI
   VAP: HOB greater than 30,
   Comments:
   Communication:  Comments:
   Code status FULL:
   Disposition :ICU
   Total time spent: 35

2126-02-11 06:35:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
 BLOOD CULTURED - At [**2126-2-10**] 01:25 PM
   Weaned sedation in afternoon in anticipation of ?extubation -- pCO2's
   in 70's
   Started on diamox for metabolic alkalosis. Urine lytes c/w diuretic tx
   CXR with continued evidence of pulmonary edema, diuresing well on lasix
   Started nitroglycerin drip as weaning propofol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2126-2-11**] 04:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Nitroglycerin - 0.1 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2126-2-10**] 10:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-2-11**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 60 (51 - 77) bpm
   BP: 139/47(76){105/37(58) - 174/68(102)} mmHg
   RR: 15 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 327 (12 - 337)mmHg
   Total In:
                                                                    972 mL
                                                                    273 mL
   PO:
   TF:
   IVF:
                                                                    832 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  2,705 mL
                                                                    270 mL
   Urine:
                                                                  2,705 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,733 mL
                                                                      3 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 364 (211 - 405) mL
   PS : 14 cmH2O
   RR (Set): 10
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 161
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.43/73.[**Numeric Identifier 607**]/99.[**Numeric Identifier 128**]/43/19
   Ve: 4.1 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Can be roused with voice or physical contact.
   Femoral art line and femoral CVL.
   MMM, ET tube.  Pupils small but equal and reactive b/l.
   S1, S2, regular bradycardia, no murmur today
   Lungs with coarse BS b/l, good air movement
   Abdomen soft, NT, ND
   ++pitting edema of LE b/l with erythema over both shins.
   Labs / Radiology
   365 K/uL
   8.9 g/dL
   102 mg/dL
   1.2 mg/dL
   43 mEq/L
   3.4 mEq/L
   59 mg/dL
   94 mEq/L
   143 mEq/L
   28.4 %
   8.9 K/uL
        [image002.jpg]
                             [**2126-2-10**]  12:11 AM
                             [**2126-2-10**]  12:31 AM
                             [**2126-2-10**]  03:16 AM
                             [**2126-2-10**]  04:25 AM
                             [**2126-2-10**]  04:28 AM
                             [**2126-2-10**]  06:27 AM
                             [**2126-2-10**]  07:48 AM
                             [**2126-2-10**]  04:05 PM
                             [**2126-2-10**]  06:30 PM
                             [**2126-2-11**]  03:48 AM
   WBC
   10.6
   10.0
   8.9
   Hct
   29.9
   28.6
   28.4
   Plt
   [**Telephone/Fax (3) 826**]
   Cr
   1.4
   1.3
   1.2
   TropT
   0.09
   TCO2
   41
   42
   47
   47
   48
   49
   50
   Glucose
   124
   127
   117
   102
   Other labs: PT / PTT / INR:31.9/32.8/3.3, CK / CKMB /
   Troponin-T:17/4/0.09, ALT / AST:73/45, Alk Phos / T Bili:58/1.2,
   Differential-Neuts:87.3 %, Lymph:7.5 %, Mono:4.7 %, Eos:0.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:247 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   UCx [**2-9**]:  negative
   BCx [**2-10**]: pending
   Sputum Cx [**2-10**]: Gram stain without organisms; Cx pending
   CTA Chest [**2-9**] (final read):
   1.  No evidence of pulmonary embolus.
   2.  Low-lying endotracheal tube, only 1.3 cm above the carina.
   3.  Small bilateral pleural effusions with widespread ground-glass opac
   ity in
   the upper lobes and interlobular septal thickening, consistent with pul
   monary
   edema.
   4.  Heterogeneous mass in the right thyroid gland which displaces the
   endotracheal tube.
   5.  Severe osteoarthritis of the left shoulder.
   CT Head [**2-9**] (final read):
   No acute intracranial hemorrhage.
   Assessment and Plan
   [**Age over 90 **]yo woman admitted with respiratory failure in the setting of volume
   overload.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   Suspect secondary to heart failure.  No PE or PNA on CTA.
   -          continue mechanical ventilation; RSBI 160, but will hope to
   be able to wean tomorrow
   -          treat heart failure as below
   -          follow ABG and CXR
   -          f/u sputum Cx
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   Most likely due to recent bacteremia, poorly controlled HTN with
   possible contribution from AFib, dietary non-compliance.
   -          lasix IV for goal of -1L today
   -          nitro gtt and ACE I for afterload reduction, goal SBP
   100-130
   -          f/u TTE results
   -          currently treating with zosyn and vanc given recent
   bacteremia, murmur on admitting exam, and hence concern for
   endocarditis
   -          troponin leak peaked at 0.09; most likely from demand in
   setting of hypertension
 ALKALOSIS, METABOLIC
   -          unclear if this is patient
s baseline or if this is acute
   change
   -          continue diamox for total of 4 doses
   # ARF:  Cr improving with diuresis; continue diuresis with lasix
   -          given starting ACE I, will check PM lytes
 ATRIAL FIBRILLATION (AFIB):
   INR now in therapeutic range; will hold coumadin while in ICU and start
   heparin gtt for anticoagulation
   Bradycardic, so will no need for rate-controlling agents
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT), Mental status
   change:
   Presented lethargic in setting of respiratory failure.
   -          treat respiratory failure
   -          continue daily awakenings; mental status improving
   -          restart aricept after extubation
 HYPOTHYROIDISM/ Right Thyroid Mass:
   -          mass biopsy negative
   -          will make sure patient had endocrine f/u as outpatient once
   discharged
   -          TSH wnl; continue levothyroxine
 HYPERTENSION, BENIGN;
   -          lasix, nitro, and ACE I as discussed above
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   -          INR therapeutic; avoid coumadin while in ICU
   -          Start heparin gtt once pt has PICC placed
   ICU Care
   Nutrition:
   Comments: NPO; nutrition consult for tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2126-2-9**] 11:50 PM
   Multi Lumen - [**2126-2-9**] 11:53 PM
   PICC placement by IR today, then pull femoral lines
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care, daily awakening and RSBI ordered
   Comments:
   Communication:  Comments: with daughter; social work consult to help
   with coping.
   Code status: Full code
   Disposition: ICU

2126-02-11 11:40:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2126-2-10**] 01:25 PM
   Diamox begun for metabolic alkalosis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2126-2-11**] 04:00 AM
   Infusions:
   Nitroglycerin - 0.25 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   SQI, synthroid, CHG, vanco q48, PPI, acetazolamide,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-2-11**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 53 (53 - 77) bpm
   BP: 128/46(71) {107/39(60) - 166/68(101)} mmHg
   RR: 24 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
   CVP: 327 (13 - 337)mmHg
   Total In:
                                                                    981 mL
                                                                    590 mL
   PO:
   TF:
   IVF:
                                                                    841 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                  2,705 mL
                                                                    870 mL
   Urine:
                                                                  2,705 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,724 mL
                                                                   -280 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 366 (211 - 405) mL
   PS : 14 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 161
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.43/73/99/43/19
   Ve: 5 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   365 K/uL
   102 mg/dL
   1.2 mg/dL
   43 mEq/L
   3.4 mEq/L
   59 mg/dL
   94 mEq/L
   143 mEq/L
   28.4 %
   8.9 K/uL
        [image002.jpg]
                             [**2126-2-10**]  12:11 AM
                             [**2126-2-10**]  12:31 AM
                             [**2126-2-10**]  03:16 AM
                             [**2126-2-10**]  04:25 AM
                             [**2126-2-10**]  04:28 AM
                             [**2126-2-10**]  06:27 AM
                             [**2126-2-10**]  07:48 AM
                             [**2126-2-10**]  04:05 PM
                             [**2126-2-10**]  06:30 PM
                             [**2126-2-11**]  03:48 AM
   WBC
   10.6
   10.0
   8.9
   Hct
   29.9
   28.6
   28.4
   Plt
   [**Telephone/Fax (3) 826**]
   Cr
   1.4
   1.3
   1.2
   TropT
   0.09
   0.08
   TCO2
   41
   42
   47
   47
   48
   49
   50
   Glucose
   124
   127
   117
   102
   Other labs: PT / PTT / INR:24.2/28.9/2.4, CK / CKMB /
   Troponin-T:17/3/0.08, ALT / AST:73/45, Alk Phos / T Bili:58/1.2,
   Differential-Neuts:87.3 %, Lymph:7.5 %, Mono:4.7 %, Eos:0.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:247 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Imaging: CT chest
   1.  No evidence of pulmonary embolus.
   2.  Low-lying endotracheal tube, only 1.3 cm above the carina.
   3.  Small bilateral pleural effusions with widespread ground-glass
   opacity in
   the upper lobes and interlobular septal thickening, consistent with
   pulmonary
   edema.
   4.  Heterogeneous mass in the right thyroid gland which displaces the
   endotracheal tube.
   5.  Severe osteoarthritis of the left shoulder.
   CT head: no hemorrhage
   Assessment and Plan
   [**Age over 90 **] year-old woman with respiratory failure, most likely secondary to
   heart failure at this point, although certainly infection remains in
   the differential diagnosis.  We will manage her acute (and
   presumptively diastolic heart failure) by diuresing, reducing afterload
   with an ACEI trial, and checking an echocardiogram.  We have not fully
   excluded infection (including influenza), and so will continue to treat
   antibiotics and continue droplet precautions for now.
   Her respiratory and acid base status is complex; at present she has
   what appears to be a significant metabolic alkalosis, although we do
   not have old blood gas values available.  We will continue Diamox today
   since she has had very high pH (7.68) with this.  [**Month (only) 60**] need to involve
   renal if it persists.
   We need to resite her lines today, since both are femoral.  We will
   attempt a radial arterial line and ask I.R. for PICC.
   For her hx of PE, will begin heparin after lines resited.
   Full code (discussed with daughter).
   PROBLEMS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
 ALKALOSIS, METABOLIC
 ATRIAL FIBRILLATION (AFIB)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 HYPOTHYROIDISM
 HYPERTENSION, BENIGN
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   ICU Care
   Nutrition:
   Comments: Begin tube feeds.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2126-2-9**] 11:50 PM
   Multi Lumen - [**2126-2-9**] 11:53 PM
   Comments: Arterial line and femoral line
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, begin heparin after lines)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2126-02-13 06:52:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 ARTERIAL LINE - STOP [**2126-2-13**] 12:00 AM
   inserted in ED [**2125-2-9**]
   Nitro gtt DC
d and captopril dose increased
   Art line DC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2126-2-12**] 04:00 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2126-2-12**] 07:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-2-13**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 66 (46 - 66) bpm
   BP: 153/51(79){110/39(59) - 153/51(79)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.3 kg (admission): 87.5 kg
   Height: 63 Inch
   TELE:
   Bradycardic into 40s with frequent 2 second pauses.
             Total In:
                                                                  1,536 mL
                                                                    230 mL
   PO:
             TF:
   IVF:
                                                                  1,056 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    640 mL
   Urine:
                                                                  2,240 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -704 mL
                                                                   -410 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 430 (336 - 430) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   RSBI: 75
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.38/59/116/33/8
   Ve: 5.2 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Sleeping, easily rousable.  Makes purposeful movements but does not
   follow commands.
   Pupils equal and reactive.  Mucous membranes dry
   S1, S2, bradycardic, no murmur
   Lungs clear b/l
   Abd +BS, soft, NT, ND
   Ext with improved pitting edema; DP +2 b/l
   PICC line in place.
   Labs / Radiology
   316 K/uL
   8.5 g/dL
   89 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.6 mEq/L
   35 mg/dL
   103 mEq/L
   144 mEq/L
   27.5 %
   6.7 K/uL
        [image002.jpg]
                             [**2126-2-10**]  07:48 AM
                             [**2126-2-10**]  04:05 PM
                             [**2126-2-10**]  06:30 PM
                             [**2126-2-11**]  03:48 AM
                             [**2126-2-11**]  06:02 PM
                             [**2126-2-12**]  04:31 AM
                             [**2126-2-12**]  05:58 AM
                             [**2126-2-12**]  06:00 PM
                             [**2126-2-12**]  07:33 PM
                             [**2126-2-13**]  02:23 AM
   WBC
   8.9
   7.8
   6.7
   Hct
   28.4
   29.1
   27.5
   Plt
   365
   337
   316
   Cr
   1.2
   0.9
   1.0
   1.0
   0.9
   TropT
   0.08
   TCO2
   48
   49
   50
   43
   36
   Glucose
   102
   104
   100
   96
   89
   Other labs: PT / PTT / INR:17.6/105.0/1.6, CK / CKMB /
   Troponin-T:17/3/0.08, ALT / AST:73/45, Alk Phos / T Bili:58/1.2,
   Differential-Neuts:87.3 %, Lymph:7.5 %, Mono:4.7 %, Eos:0.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:247 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR [**2-12**]:
   Lung volumes are lower, mediastinal veins are more severely engorged
   and there
   is probably of moderate bilateral pleural effusion.  ET tube is in
   standard
   placement and the nasogastric tube passes below the diaphragm and out
   of view.
   No pneumothorax.
   Microbiology: Sputum Cx sparse growth oropharyngeal flora.
   BCx NGTD
   Wound Cx L femoral CVL pending
   Assessment and Plan
   [**Age over 90 **]yo woman with respiratory failure in the setting of volume overload.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   Continues to have evidence for heart failure.  Does not appear to have
   developed infection; no evidence for PE.
   -          continue diuresis
   -          RSBI this AM 75; underlying cause for intubation improving,
   secretions manageable, patient alert
   -          Will try for extubation today after discussing with daughter
   whether pt should be reintubated if she fails trial
   -          Sputum Cx negative
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   -          would diurese with 40mg IV lasix now and repeat if needed
   for goal -1.5 to -2.0 L today
   -          Increase ACE I as needed for SBP 100-130
   -          [**Month (only) 60**] need nitro in short term after extubation to assist with
   preload
 ALKALOSIS, METABOLIC:
   -          chronic, unclear etiology:  undiagnosed emphysema vs renal
   syndrome such as Barter
s or Gitelman
   -          at baseline
   -          s/p 4 doses of diamox, finished [**2-12**]
   # Paroxysmal ATRIAL FIBRILLATION (AFIB):
   -          anticoagulation with heparin gtt while in ICU
   -          bradycardic
 .H/O PULMONARY EMBOLISM (PE), ACUTE:
   -          heparin gtt as above
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   -          evaluate mental status once extubated
   # Hypothyroidism with Thyroid Mass:
   -          needs outpatient f/u; TSH normal; Bx negative
   # Bradycardia:
   -          no pauses > 2 seconds on strips; do not feel that this
   patient is a good candidate for pacemaker
   -          bradycardia is asymptomatic
   -          no intervention at this time
   ICU Care
   Nutrition:
   Comments: Tube feeds
will hold for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-2-11**] 05:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Communication:  Comments: will contact daughter to encourage meeting
   with social work
   Code status: Full code
   Disposition:ICU

2126-02-13 09:39:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2126-2-13**] 12:00 AM
   No major clinical events
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2126-2-12**] 04:00 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2126-2-12**] 07:33 PM
   Other medications:
   IV heparin, CHG, PPI, captopril.  No ABX.  Other meds per ICU resident
   note and [**Month (only) **] (reviewed).
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-2-13**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 65 (46 - 66) bpm
   BP: 139/52(75){110/35(57) - 153/54(79)} mmHg
   RR: 10 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83.3 kg (admission): 87.5 kg
   Height: 63 Inch
             Total In:
                                                                  1,536 mL
                                                                    334 mL
   PO:
             TF:
   IVF:
                                                                  1,056 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    850 mL
   Urine:
                                                                  2,240 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -704 mL
                                                                   -516 mL
   Respiratory support
   Ventilator mode: CPAP/PPS
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 480 (405 - 480) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.38/59/116/33/8
   Ve: 5.2 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   316 K/uL
   89 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.6 mEq/L
   35 mg/dL
   103 mEq/L
   144 mEq/L
   27.5 %
   6.7 K/uL
        [image002.jpg]
                             [**2126-2-10**]  07:48 AM
                             [**2126-2-10**]  04:05 PM
                             [**2126-2-10**]  06:30 PM
                             [**2126-2-11**]  03:48 AM
                             [**2126-2-11**]  06:02 PM
                             [**2126-2-12**]  04:31 AM
                             [**2126-2-12**]  05:58 AM
                             [**2126-2-12**]  06:00 PM
                             [**2126-2-12**]  07:33 PM
                             [**2126-2-13**]  02:23 AM
   WBC
   8.9
   7.8
   6.7
   Hct
   28.4
   29.1
   27.5
   Plt
   365
   337
   316
   Cr
   1.2
   0.9
   1.0
   1.0
   0.9
   TropT
   0.08
   TCO2
   48
   49
   50
   43
   36
   Glucose
   102
   104
   100
   96
   89
   Other labs: PT / PTT / INR:17.6/105.0/1.6, CK / CKMB /
   Troponin-T:17/3/0.08, ALT / AST:73/45, Alk Phos / T Bili:58/1.2,
   Differential-Neuts:87.3 %, Lymph:7.5 %, Mono:4.7 %, Eos:0.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:247 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: bilateral basilar opacities.
   Microbiology: sputum OP flora
   Assessment and Plan
   [**Age over 90 **] year old woman with respiratory failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - most likely due to heart failure (diastolic, acute)
   - has improved with diuresis, off antibiotics
   - she is adequately rate contolled and diuresing well
   - trial of spontaneous breathing
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   - see above
 ALKALOSIS, METABOLIC
   - improved with potassium repletion
   - today, appears to be more a compensated respiratory acidosis. [**Month (only) 60**]
   have OHV.
   - no further intervention
 ATRIAL FIBRILLATION (AFIB)
   - c/b intermittent asymptomatic bradycardia
 .H/O PULMONARY EMBOLISM (PE), ACUTE
   - on heparin
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   - assess mental status after extubation
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2126-2-11**] 05:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2126-02-14 07:47:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
   Failed her SBT [**2-2**] pO2 of 54, plan to reattempt in AM
   Continued to diurese well
   Spoke with daughter, confirmed full code status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2126-2-12**] 04:00 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2126-2-13**] 04:00 PM
   Heparin Sodium - [**2126-2-13**] 04:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-2-14**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 65 (47 - 76) bpm
   BP: 142/55(75){69/35(59) - 175/71(91)} mmHg
   RR: 20 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.3 kg (admission): 87.5 kg
   Height: 63 Inch
             Total In:
                                                                  1,595 mL
                                                                    312 mL
   PO:
             TF:
   IVF:
                                                                  1,320 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                    240 mL
   Urine:
                                                                  2,875 mL
                                                                    240 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,330 mL
                                                                     72 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 199 (199 - 480) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.36/67/57/33/8
   Ve: 5.1 L/min
   PaO2 / FiO2: 143
   Physical Examination
   Wakes easily, very eager to communicate, but unclear what she is saying
   [**Name (NI) 830**]
   S1, S2, bradycardic, no murmur
   Lungs with diminished BS at bases, but clear in upper lung fields
   Abd soft, NT, ND
   Ext with pitting edema L>R, improving since admission
   Labs / Radiology
   324 K/uL
   9.0 g/dL
   74 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.2 mEq/L
   29 mg/dL
   99 mEq/L
   142 mEq/L
   28.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2126-2-10**]  06:30 PM
                             [**2126-2-11**]  03:48 AM
                             [**2126-2-11**]  06:02 PM
                             [**2126-2-12**]  04:31 AM
                             [**2126-2-12**]  05:58 AM
                             [**2126-2-12**]  06:00 PM
                             [**2126-2-12**]  07:33 PM
                             [**2126-2-13**]  02:23 AM
                             [**2126-2-13**]  02:52 PM
                             [**2126-2-14**]  04:11 AM
   WBC
   8.9
   7.8
   6.7
   8.3
   Hct
   28.4
   29.1
   27.5
   28.3
   Plt
   365
   337
   316
   324
   Cr
   1.2
   0.9
   1.0
   1.0
   0.9
   0.8
   TropT
   0.08
   TCO2
   50
   43
   36
   39
   Glucose
   102
   104
   100
   96
   89
   74
   Other labs: PT / PTT / INR:16.8/92.2/1.5, CK / CKMB /
   Troponin-T:17/3/0.08, ALT / AST:73/45, Alk Phos / T Bili:58/1.2,
   Differential-Neuts:87.3 %, Lymph:7.5 %, Mono:4.7 %, Eos:0.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:247 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   UCx, Sputum Cx negative
   BCx NGTD
   CXR [**2-13**]:
   1.  Mild small-to-moderate edema, which is new since the [**2-9**]
   radiograph examination, changed in distribution but not severity since
   the
   [**2-12**] examination.
   2.  The other findings including the moderate bilateral pleural effusio
   n and
   global cardiomegaly are essentially unchanged.
   Assessment and Plan
   [**Age over 90 **]yo woman with respiratory failure due to acute heart failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          tolerated extubation this morning
   -          continue diuresis for volume overload
   -          sputum cx negative
   -          monitor respiratory status closely given recent extubation
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   -          continue diuresis with IV lasix  for goal -1.5L
   -          ACE I for afterload reduction
   -          Nitro at bedside if needed
 ALKALOSIS, METABOLIC
compensatory for chronic respiratory acidosis,
   at baseline
 ATRIAL FIBRILLATION (AFIB)
   -          would start bridge to coumadin now that she is improving
   -          continue heparin gtt until INR therapeutic
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   -          restart aricept
   # Bradycardia:
   -          pauses are frequent, but not longer than 2 seconds
   -          will not pursue EP work-up given asymptomatic without
   significant pauses
   ICU Care
   Nutrition: start clears and advance as tolerated
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2126-2-11**] 05:00 PM
   Prophylaxis:
   DVT: heparin gtt, start coumadin tonight
   Stress ulcer: PPI:
   Communication:  Comments: with daughter
   [**Name (NI) 66**] status: Confirmed FULL
   Disposition: ICU

2126-02-14 13:51:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   diuresed
   extubated this a.m.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2126-2-12**] 04:00 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2126-2-13**] 04:28 PM
   Furosemide (Lasix) - [**2126-2-14**] 11:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-2-14**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.6
   HR: 58 (47 - 76) bpm
   BP: 97/61 (70){69/35(59) - 175/66(91)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83.3 kg (admission): 87.5 kg
   Height: 63 Inch
             Total In:
                                                                  1,595 mL
                                                                    540 mL
   PO:
             TF:
   IVF:
                                                                  1,320 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                    450 mL
   Urine:
                                                                  2,875 mL
                                                                    450 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,330 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 199 (199 - 255) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.35/66/67/33/7
   Ve: 4.6 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : ), diminshed at bases
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   324 K/uL
   74 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.2 mEq/L
   29 mg/dL
   99 mEq/L
   142 mEq/L
   28.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2126-2-11**]  03:48 AM
                             [**2126-2-11**]  06:02 PM
                             [**2126-2-12**]  04:31 AM
                             [**2126-2-12**]  05:58 AM
                             [**2126-2-12**]  06:00 PM
                             [**2126-2-12**]  07:33 PM
                             [**2126-2-13**]  02:23 AM
                             [**2126-2-13**]  02:52 PM
                             [**2126-2-14**]  04:11 AM
                             [**2126-2-14**]  10:47 AM
   WBC
   8.9
   7.8
   6.7
   8.3
   Hct
   28.4
   29.1
   27.5
   28.3
   Plt
   365
   337
   316
   324
   Cr
   1.2
   0.9
   1.0
   1.0
   0.9
   0.8
   TropT
   0.08
   TCO2
   43
   36
   39
   38
   Glucose
   102
   104
   100
   96
   89
   74
   Other labs: PT / PTT / INR:16.8/92.2/1.5, CK / CKMB /
   Troponin-T:17/3/0.08, ALT / AST:73/45, Alk Phos / T Bili:58/1.2,
   Differential-Neuts:87.3 %, Lymph:7.5 %, Mono:4.7 %, Eos:0.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:247 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o woman with respiratory failure from acute diastolic heart
   failure.   She looked good this morning and tolerated an [**Last Name (LF) **], [**First Name3 (LF) **] we
   have extubated her.  She appears to be tolerating it.  Today, we will
   continue diuresis, continue afterload reduction, and other current
   therapies.  She is on heparin for AFib; we will begin warfarinization.
   She needs continue ICU care since she was just extubated, but hopefully
   will look toward transfer out of the ICU soon.
   PROBLEMS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
 ALKALOSIS, METABOLIC
 ATRIAL FIBRILLATION (AFIB)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   ICU Care
   Lines:
   PICC Line - [**2126-2-11**] 05:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments: meeting by ICU team with daughter
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 30

2126-02-15 07:45:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
   Diarrhea x 4-5 times overnight; watery mixed with bloody mucous
   +Productive cough
   Continued diuresis, though decreased response to lasix
   SUBJECTIVE:
   +thirsty
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2126-2-14**] 11:30 PM
   Heparin Sodium - [**2126-2-15**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-2-15**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 61 (47 - 75) bpm
   BP: 124/41(64){97/36(59) - 153/69(80)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.3 kg (admission): 87.5 kg
   Height: 63 Inch
             Total In:
                                                                  1,121 mL
                                                                    584 mL
   PO:
                                                                    360 mL
                                                                    440 mL
   TF:
   IVF:
                                                                    721 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  1,695 mL
                                                                    510 mL
   Urine:
                                                                  1,695 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -574 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.35/66/67/37/7
   PaO2 / FiO2: 168
   Physical Examination
   Awake, oriented to hospital and self but not year.  Coughing.
   S1, S2, regular, no murmur
   Lungs with diminished BS at bases but clear in upper lung fields
   Abd soft, NT, ND
   Ext with ++pitting edema of left foot, but trace edema on right
   Labs / Radiology
   335 K/uL
   9.5 g/dL
   114 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.3 mEq/L
   23 mg/dL
   100 mEq/L
   144 mEq/L
   30.5 %
   18.1 K/uL
        [image002.jpg]
                             [**2126-2-11**]  06:02 PM
                             [**2126-2-12**]  04:31 AM
                             [**2126-2-12**]  05:58 AM
                             [**2126-2-12**]  06:00 PM
                             [**2126-2-12**]  07:33 PM
                             [**2126-2-13**]  02:23 AM
                             [**2126-2-13**]  02:52 PM
                             [**2126-2-14**]  04:11 AM
                             [**2126-2-14**]  10:47 AM
                             [**2126-2-15**]  04:31 AM
   WBC
   7.8
   6.7
   8.3
   18.1
   Hct
   29.1
   27.5
   28.3
   30.5
   Plt
   [**Telephone/Fax (3) 910**]35
   Cr
   0.9
   1.0
   1.0
   0.9
   0.8
   0.8
   TCO2
   43
   36
   39
   38
   Glucose
   104
   100
   96
   89
   74
   114
   Other labs: PT / PTT / INR:14.8/48.9/1.3, CK / CKMB /
   Troponin-T:17/3/0.08, ALT / AST:73/45, Alk Phos / T Bili:58/1.2,
   Differential-Neuts:87.3 %, Lymph:7.5 %, Mono:4.7 %, Eos:0.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:247 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   C diff [**2-15**] pending
   Femoral catheter tip [**2-11**] no growth
   Assessment and Plan
   [**Age over 90 **]yo woman admitted with respiratory failure from volume overload, now
   diuresed.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Now on 2L, though she is not on home O2.  Most likely will continue to
   need diuresis, but probably taking time to mobilize her extravascular
   fluid in the setting of ongoing diarrhea and aggressive diuresis over
   last several days.
   -          would hold on lasix in setting of diarrhea
   -          sputum Cx negative, but will resend given productive cough
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   -          continue ACE I for afterload reduction
   -          holding lasix as discussed above
   # Leukocytosis/Diarrhea/Cough:
   -          suspect C diff; will start empiric flagyl and send toxin
 ATRIAL FIBRILLATION (AFIB)
   -          anticoagulation with heparin gtt until INR therapeutic on
   coumadin (restarted [**2-14**])
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   -          restarted aricept
   -          patient is oriented to place and person
   # Bradycardia:
   -          no pauses > 2 seconds; no symptoms
   -          team does not feel that patient would benefit from EP eval
   at this time
   ICU Care
   Nutrition: advance to soft diet
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2126-2-11**] 05:00 PM
   Prophylaxis:
   DVT: heparin gtt until INR therapeutic on coumadin
   Stress ulcer: PPI
   Communication:  Comments: with daughter
   [**Name (NI) 66**] status: FULL (confirmed with HCP)
   Disposition: transfer to floor
   ------ Protected Section ------
   Critical Care Staff Addendum
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan, and would add/emphasize
   that Ms. [**Known lastname 923**] remains stable off the ventilator.  She has developed
   diarrhea, and the probability of C difficile is high enough to warrant
   empiric treatment at this point.  Other issues as detail by Dr.
   [**Last Name (STitle) 512**].
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2126-2-15**] 08:18 PM ------

2126-02-15 11:04:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   diarrhea developed
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: dementia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2126-2-14**] 11:30 PM
   Heparin Sodium - [**2126-2-15**] 04:00 AM
   Lansoprazole (Prevacid) - [**2126-2-15**] 08:15 AM
   Other medications:
   levothyroxine, aricept, coumadin, insulin sliding scale
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-2-15**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 65 (47 - 75) bpm
   BP: 129/48(69){116/36(59) - 153/69(80)} mmHg
   RR: 18 (18 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.9 kg (admission): 87.5 kg
   Height: 63 Inch
             Total In:
                                                                  1,121 mL
                                                                  1,169 mL
   PO:
                                                                    360 mL
                                                                    860 mL
   TF:
   IVF:
                                                                    721 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                  1,695 mL
                                                                    585 mL
   Urine:
                                                                  1,695 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -574 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///37/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): self, hospital, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   335 K/uL
   114 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.3 mEq/L
   23 mg/dL
   100 mEq/L
   144 mEq/L
   30.5 %
   18.1 K/uL
        [image002.jpg]
                             [**2126-2-11**]  06:02 PM
                             [**2126-2-12**]  04:31 AM
                             [**2126-2-12**]  05:58 AM
                             [**2126-2-12**]  06:00 PM
                             [**2126-2-12**]  07:33 PM
                             [**2126-2-13**]  02:23 AM
                             [**2126-2-13**]  02:52 PM
                             [**2126-2-14**]  04:11 AM
                             [**2126-2-14**]  10:47 AM
                             [**2126-2-15**]  04:31 AM
   WBC
   7.8
   6.7
   8.3
   18.1
   Hct
   29.1
   27.5
   28.3
   30.5
   Plt
   [**Telephone/Fax (3) 910**]35
   Cr
   0.9
   1.0
   1.0
   0.9
   0.8
   0.8
   TCO2
   43
   36
   39
   38
   Glucose
   104
   100
   96
   89
   74
   114
   Other labs: PT / PTT / INR:14.8/48.9/1.3, CK / CKMB /
   Troponin-T:17/3/0.08, ALT / AST:73/45, Alk Phos / T Bili:58/1.2,
   Differential-Neuts:87.3 %, Lymph:7.5 %, Mono:4.7 %, Eos:0.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:247 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
 LEUKOCYTOSIS
 ATRIAL FIBRILLATION (AFIB)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 DIARRHEA
   -- high probability for C diff
   -- treat empirically
   -- check cultures
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-2-11**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status:
   Disposition :Transfer to floor
   Total time spent: